US05124331
In chloroform was dissolved 22.85 g of 3,4-dihydro-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine, and 19.5 g of N-bromosuccinimide and trace benzoyl peroxide were added to the solution. The mixture was refluxed for 10 hours. After the resulting crystals were removed from the reaction mixture, the solvent was distilled off. The residue was crystallized from hexane-ethyl acetate to give 22.95 g of 3,4-dihydro-6-bromo-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine, m.p. 164.5°-166.5° C.

reactant | 3,4-dihydro-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine | 22.85 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=CS2)C | C13H9ClN2OS
reactant | N-bromosuccinimide | 19.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,4-dihydro-6-bromo-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine | 22.95 g | BrC1=CC2=C(N=C(N(C2=O)C2=C(C=CC=C2)Cl)C)S1 | C13H8BrClN2OS
